US05859014
substituting 3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione and 3-chlorobenzyl chloride gave 1-(3-chlorobenzyl)-3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]-propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 142°-144° C.; Anal.: Calcd. for C27H30ClF3N4O3.HCl: C, 55.03; H, 5.33; N, 9.50%; Found: C, 54.80; H, 5.27; N, 9.46%;

reactant | 3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C)=O)(F)F | C20H25F3N4O3
reactant | 3-chlorobenzyl chloride | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
product | 1-(3-chlorobenzyl)-3-{3-[4-(2-(2,2,2-trifluoroethoxy)phenyl)piperazin-1-yl]-propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.ClC=1C=C(CN2C(N(C(C(=C2)C)=O)CCCN2CCN(CC2)C2=C(C=CC=C2)OCC(F)(F)F)=O)C=CC1 | InChI=1S/C27H30ClF3N4O3.ClH/c1-20-17-34(18-21-6-4-7-22(28)16-21)26(37)35(25(20)36)11-5-10-32-12-14-33(15-13-32)23-8-2-3-9-24(23)38-19-27(29,30)31;/h2-4,6-9,16-17H,5,10-15,18-19H2,1H3;1H
